US04873262
2-Dipropylamino-8-[2-(3-methylureido)ethyl]-1,2,3,4-tetrahydronaphthalene
1.3 g (4.7 mmol) of 2-dipropylamino-8-(2-aminoethyl)-1,2,3,4-tetrahydronaphthalene were initially introduced into 20 ml of toluene. The reaction was catalyzed using 3 drops of triethylamine, and 0.31 ml (5.17 mmol) of methyl isocyanate were then added dropwise. The mixture was stirred overnight at room temperature, and then evaporated. After subsequent chromatography over silica gel 60, 40-63 μm, using diisopropyl ether/ethanol/triethylamine, the product was stirred with petroleum ether and a little diisopropyl ether, and filtered off under suction.

reactant | 2-dipropylamino-8-(2-aminoethyl)-1,2,3,4-tetrahydronaphthalene | 4.7 mmol, 1.3 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CCN)CCC | C18H30N2
reactant | methyl isocyanate | 5.17 mmol, 0.31 ml | CN=C=O | C2H3NO
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dipropylamino-8-[2-(3-methylureido)ethyl]-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CCNC(=O)NC)CCC | C20H33N3O
